US07700589B2
48f) ethyl (R)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate
A mixture of 20 mL THF, 1.65 g (6.7 mmol) ethyl (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate and 1.25 g (7.6 mmol) CDT was stirred for 1 h in the ice bath and for 1 h at RT. Then 1.70 g (6.9 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one was added and the mixture was refluxed for 3 h. The reaction mixture was evaporated down under reduced pressure, the residue combined with 15% K2CO3 solution, the precipitate was suction filtered and dried.

reactant | ethyl (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate | 6.7 mmol, 1.65 g | N[C@@H](C(=O)OCC)CC1=CC=2CCCCC2C=C1 | C15H21NO2
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 6.9 mmol, 1.70 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl (R)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)N[C@@H](C(=O)OCC)CC1=CC=3CCCCC3C=C1)C=CC=C2 | C30H38N4O4
